US05801271
Synthesis of t-butyl 7-(N-benzyloxycarbonylamino)-3-hydroxy-2-phenylheptanoate
The same procedures as in Example 26 were performed except that 0.2 g (0.47 mmol) of t-butyl 7-(N-benzyloxycarbonylamino)-3-oxo-2-phenylheptanoate instead of ethyl 7-(N-benzyloxycarbonylamino)-3-oxo-2-phenylheptanoate was dissolved in 4 ml of methanol, 18 mg (0.47 mol) of sodium borohydride was added, and 4 ml of 4N hydrochloric acid was added to the reaction solution, to prepare the target compound as a pale yellow oil in an amount of 196 mg at a yield of 98%. The selectivity of the products in terms of the ratio of the syn-form to the anti-form was 7:3. The analytical results on the target compound are given below.

reactant | t-butyl 7-(N-benzyloxycarbonylamino)-3-oxo-2-phenylheptanoate | 0.47 mmol, 0.2 g | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(C(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C25H31NO5
reactant | sodium borohydride | 0.47 mol, 18 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 4N, 4 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | t-butyl 7-(N-benzyloxycarbonylamino)-3-hydroxy-2-phenylheptanoate | yield of 98% | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(C(=O)OC(C)(C)C)C1=CC=CC=C1)O | C25H33NO5
